Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female who was brought to
the ED with a chief complaint of pain, after her son found her
down on the floor, found to have a UTI and rhabdomyolysis. Ms.
___ does not give a clear history, and her son is not
available (unfortunately do not have his phone number), so this
is an incomplete history. However, she tells me that she fell
yesterday, though she reports that she "got up immediately".
Afterwards, she complained of left knee pain. She denies any
fevers, chills, dysuria, abdominal symptoms, cough, chest pain 
--
only endorsing her long-standing knee pain. Per chart review, 
her
son found her wedged between the toilet and the sink; unclear 
how
long she had been down, but less than 24 hours.

In the ED, TMax of 100.8. Thoracic spine CXR showed chronic
fractures of T7,8,11, and L3. CT Chest/Abd/Pelvic showed no
evidence of visceral injury, with similar fractures. CT C-spine
with a chronic left proximal/mid-clavicular fracture. CT head
with no bleed. Knee x-ray without fracture. An MRI spine was
obtained which showed: 

1. Chronic compression fractures of the T7, T8, T11, and L3
vertebral bodies. 
There is mild retropulsion of the L3 vertebral body with mild
spinal canal
narrowing at that level.
2. Spinal cord signal and morphology are normal.
3. Mild disc bulges at L4-L5 and L5-S1 and ligamentum flavum
hypertrophy
resulting in mild spinal canal narrowing at those levels.

Spine surgery reviewed the imaging; chronic fractures with no
cord abnormalities, and recommended symptom control. 

Her BMP showed mild hyponatremia 133/8.5(hemolyzed) ___
1.6/1.0; on recheck it was normal. , CK 6121, UA with mod blood
mod leuk pos nitrates 49 whites and few bacteria. 

She receieved 1 gm ceftriaxone and 1 L IVF, and was admitted to
medicine.
 
Past Medical History:
Osteoporosis, anxiety. She denies other medical history

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: Foley catheter is in place
MSK: Bilateral knees with deformations of osteoarthritis, not
warm, no effusion, excoriation on the bilateral lateral knees.
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Examined on day of discharge -- afebrile, ambulating with 
walker, A+Ox4.
 
Pertinent Results:
LABORATORY RESULTS:

___ 07:30PM BLOOD WBC-10.0 RBC-4.95 Hgb-13.9 Hct-42.3 
MCV-86 MCH-28.1 MCHC-32.9 RDW-14.1 RDWSD-43.8 Plt ___
___ 07:30PM BLOOD Neuts-86.1* Lymphs-4.3* Monos-9.1 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-8.61* AbsLymp-0.43* 
AbsMono-0.91* AbsEos-0.00* AbsBaso-0.03
___ 07:30PM BLOOD Plt ___
___ 07:30PM BLOOD ___ PTT-26.5 ___
___ 11:51AM BLOOD Glucose-89 UreaN-13 Creat-0.8 Na-138 
K-4.0 Cl-103 HCO3-18* AnGap-17
___ 07:30PM BLOOD Glucose-110* UreaN-16 Creat-1.0 Na-133* 
K-8.5* Cl-99 HCO3-23 AnGap-11
___ 11:51AM BLOOD CK(CPK)-6121*
___ 03:25AM BLOOD CK(CPK)-4893*
___ 07:30PM BLOOD CK(CPK)-3297*
___ 11:51AM BLOOD CK-MB-20* MB Indx-0.3 cTropnT-<0.01
___ 11:51AM BLOOD Calcium-7.7* Phos-2.6* Mg-1.9
___ 07:49PM BLOOD Lactate-2.4* K-3.8

CT C-spine W/O Contrast

IMPRESSION: 
  
  
1. No acute fracture or malalignment of the cervical spine. 
2. Mild cervical spondylosis. 
3. Chronic left proximal/mid clavicular fracture. 

CT head

IMPRESSION: 
  
1. 3 mm hyperdense focus likely represents a benign 
calcification of the 
dentate nuclei. 
2. No acute intracranial abnormality including no acute 
fracture. 

CT Chest

  
1. Age-indeterminate severe compression fractures of T7, T8, and 
L3 vertebral 
bodies and moderate compression fracture of the T11 vertebral 
body.  Mild 
retropulsion associated with L3 fracture and minimal 
retropulsion associated 
with the T11 vertebral fracture.  Although there are no 
comparison studies 
available, given the lack of paravertebral stranding, these 
fractures are 
likely subacute or chronic in age, but this can be confirmed 
with MRI if 
needed. 
2. No evidence of visceral injury in the torso. 
3. Chronic fracture of the mid left clavicle, posterior right 
eighth rib, and 
left superior and inferior pubic rami. 
4. Cholelithiasis. 
5. Colonic diverticulosis. 
6. Calcified fibroid uterus. 
7. Distended bladder. 
  
RECOMMENDATION(S):  Correlation with any site of back tenderness 
is suggested 
along with any neurological symptoms, and MRI of the thoracic 
and/or lumbar 
spine can be obtained to better determine the acuity of the 
thoracic and 
lumbar spine compression fractures if needed. 

Knee x-ray  

IMPRESSION:  
  
No acute fracture or dislocation in either knee. 

CXR

IMPRESSION:  
  
No acute cardiopulmonary process.  No displaced rib fractures.  
Age 
indeterminate compression fractures of the T7, T8, and T11 
vertebral bodies.  
Remote fractures of the left mid clavicle and right posterior 
eighth rib. 

MRI T/L

 
IMPRESSION: 
  
1. Severe chronic compression deformities of the T7 and T8 
vertebral bodies 
and moderate chronic compression deformities of the T11 and L3 
vertebral 
bodies.  No marrow reactive change to suggest an acute 
component.  No acute 
malalignment. 
2. No high-grade spinal canal or neural foraminal narrowing of 
the thoracic 
spine. 
3. Lumbar degenerative disc disease with moderate right neural 
foraminal 
narrowing at L5-S1. 
4. No cord signal abnormality. 

 
Brief Hospital Course:
Ms. ___ was initially agitated and oriented only x2 on 
admission. Her UA was consistent with infection. Her CK had been 
mildly elevated, though her creatinine was normal. She was 
empirically started on IV ceftriaxone for a urinary tract 
infection, and her mental status returned to normal by HD#1. Her 
urine grew a sensitive E. Coli, and she will be discharged to 
finish 7 days of TMP-SMX. She was also evaluated by ___, who 
recommended home ___ and OT. Notably, the patient declined 
additional laboratory draws while in the hospital; however, as 
she urinated well and her CK had not been elevated, felt that 
this was reasonable.

HOSPITAL COURSE BY PROBLEM:

1. UTI
- TMP-SMX 800-160 BID x 4 additional days

2. Rhabdomyolysis. No evidence of ___ follow up as an 
outpatient

3. Fall. Home ___.

#Anxiety. Home lorazepam
#Osteoporosis. Gets zoledronic acid infusions scheduled.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. LORazepam 0.5 mg PO BID:PRN anxiety 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 2 tablet(s) by 
mouth Twice a day Disp #*16 Tablet Refills:*0 
2.  LORazepam 0.5 mg PO BID:PRN anxiety  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted with a urinary tract infection, which was 
identified after a fall. You were treated with antibiotics and 
you improved dramatically. You will go home with four more days 
of oral antibiotics. 
 
Followup Instructions:
___